US05470717
The pH value of a mixture (slurry) of D-PGA.1/2H2SO4 (74.7 g, 0.375 mol), 7-ADCA (21.4 g, 0.10 mol), and 2-naphthol (10.8 g, 0.075 mol, particle size <100 μm) in approximately 300 ml of water was adjusted to 6.7 by addition of 4M ammonium hydroxide. Water was added to 400 ml followed by immobilized E. coli Penicillin G acylase prepared as described above (50 g on dry basis suspended in water to a total of 100 ml), and the mixture was stirred at 25° C.

reactant | 7-ADCA | 0.10 mol, 21.4 g | CC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C8H10N2O3S
reactant | 2-naphthol | 0.075 mol, 10.8 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | ammonium hydroxide | 4M | [OH-].[NH4+]
solvent | water | approximately 300 ml | O | H2O
product | Penicillin G | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)O)C | C16H18N2O4S
